US08048884B2
Preparation 5: 3′-(4-Methoxymethyl-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester
Dissolve 3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester (3.0 g, 10.1 mmol, 1 eq.) in 1,2 dimethoxyethane (6 mL). Add 4-methoxymethyl-benzene boronic acid (2.01 g, 12.12 mmol, 1.2 eq.). Add tetrakis(triphenylphosphine)-palladium (1.17 g, 1.01 mmol, 0.1 eq.) followed by potassium carbonate (3.77 g, 27.3 mmol, 2.7 eq.). Heat the reaction mixture at 100° C. for 17 hr. Partition the reaction mixture between EtOAc and water. Separate layers. Extract the aqueous layer with dichloromethane. Combine organic layers, dry over anhydrous Na2SO4, filter and concentrate. Purify by normal phase chromatography with 10-30% EtOAc/hexane to afford the title preparation (3.7 g, 96% yield). LC MS (ES): m/z=385.3 [M+H].

reactant | 3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester | 10.1 mmol, 3.0 g, 1 eq. | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CN=C1Cl | C13H19ClN4O2
reactant | 4-methoxymethyl-benzene boronic acid | 12.12 mmol, 2.01 g, 1.2 eq. | COCC1=CC=C(C=C1)B(O)O | C8H11BO3
reactant | potassium carbonate | 27.3 mmol, 3.77 g, 2.7 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2 dimethoxyethane | 6 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)-palladium | 1.01 mmol, 1.17 g, 0.1 eq. | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3′-(4-Methoxymethyl-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester | 96% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)COC | C21H28N4O3
